US20010011094A1
Pyridine (0.014 mol) was added to a mixture of 4-[[4-amino-6-[(2,6-dichlorophenyl)methyl]-2-pyrimidinyl]amino]benzonitrile (0.0013 mol) in CH2Cl2. A solution of octanoyl chloride (1.5 equiv) in CH2Cl2 (0.5 ml) was added dropwise. The mixture was stirred at room temperature for 2 hours. More octanoyl chloride (3.5 equiv) in CH2Cl2 was added dropwise. The mixture was stirred. The solvent was then evaporated. The residue was treated with a saturated aqueous NaHCO3 solution and the mixture was extracted with CH2Cl2. The separated organic layer was dried, filtered, and the solvent was evaporated to give the crude product. The residue was recrystallized from CHCl3 and hexane, yielding 0.443 g (68.6%) of N-[6-[(2,6-dichloro-phenyl)methyl]-2-[(4-cyano-phenyl)amino]-4-pyrimidinyl]octanamide (comp. 17; mp. 135-137° C.).

reactant | Pyridine | 0.014 mol | N1=CC=CC=C1 | C5H5N
reactant | 4-[[4-amino-6-[(2,6-dichlorophenyl)methyl]-2-pyrimidinyl]amino]benzonitrile | 0.0013 mol | NC1=NC(=NC(=C1)CC1=C(C=CC=C1Cl)Cl)NC1=CC=C(C#N)C=C1 | C18H13Cl2N5
reactant | octanoyl chloride | 1.5 equiv | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | octanoyl chloride | 3.5 equiv | C(CCCCCCC)(=O)Cl | C8H15ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
product | N-[6-[(2,6-dichloro-phenyl)methyl]-2-[(4-cyano-phenyl)amino]-4-pyrimidinyl]octanamide | 0.443 g, 68.6% | ClC1=C(C(=CC=C1)Cl)CC1=CC(=NC(=N1)NC1=CC=C(C=C1)C#N)NC(CCCCCCC)=O | C26H27Cl2N5O
